US08067621B2
Step 2: 2-Amino-1-[4a-(4-chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-9-oxa-1-aza-phenanthren-1-yl]-ethanone
Trifluoroacetic acid (2 mL, 27.0 mmol) was dissolved in 16 ml of dichloromethane. The solution was added to {2-[4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-9-oxa-1-aza-phenanthren-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester (260 mg, 0.467 mmol). The solution was stirred at room temperature overnight. The reaction was quenched by washing with Sat. sodium carbonate solution. The organic layer was dried over sodium sulfate and concentrated. Yield: 20.0 mg, 9%. %. 1H NMR (CDCl3 400 MHz) δ 7.62 (d, J=8.1 Hz, 2H), 7.45 (d, J=8.8 Hz, 2H), 7.06 (td, J=8.8, 4.4 Hz, 1H), 6.61-6.52 (m, 1H), 5.41 (bs, 1H), 4.52 (dd, J=11.0, 3.7 Hz, 1H), 4.21 (dd, J=11.7, 5.1 Hz, 1H), 3.53 (bs, 2H), 2.86 (bs, 1H), 2.70-2.61 (m, 1H), 2.55-2.45 (m, 1H), 2.15-2.03 (m, 1H), 1.75-1.44 (m, 4H).

reactant | Trifluoroacetic acid | 27.0 mmol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | {2-[4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-9-oxa-1-aza-phenanthren-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 0.467 mmol, 260 mg | C(C)(C)(C)OC(NCC(=O)N1CCCC2(C3=C(C=CC(=C3OCC12)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C25H27ClF2N2O6S
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 2-Amino-1-[4a-(4-chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-9-oxa-1-aza-phenanthren-1-yl]-ethanone | NCC(=O)N1CCCC2(C3=C(C=CC(=C3OCC12)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C20H19ClF2N2O4S
